US06858638B2
N-{3-[(E)-2-(4-Fluorophenyl)vinyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 59 from 1 g of tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)-indazole-1-carboxylate, 575 mg trans-2-(4-fluorophenyl)vinylboronic acid, 28 ml of dimethylformamide, 3.25 ml of a saturated aqueous sodium hydrogencarbonate solution and 41 mg of tetrakis(triphenylphosphine)palladium[0]. 240 mg of N-{3-[(E)-2-(4-fluorophenyl)vinyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of an off-white solid melting at 248° C. (analysis C22H18FN3O4S2 % calculated C, 56.04; H, 3.85; F, 4.03; N, 8.91; O, 13.57; S, 13.60. % found C, 56.21; H, 4.09; F, 3.95; N, 8.64; S, 13.31).

reactant | tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)-indazole-1-carboxylate | 1 g | IC1=NN(C2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H20IN3O6S2
reactant | trans-2-(4-fluorophenyl)vinylboronic acid | 575 mg | FC1=CC=C(C=C1)/C=C/B(O)O | C8H8BFO2
reactant | sodium hydrogencarbonate | 3.25 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 28 ml | CN(C=O)C | C3H7NO
product | N-{3-[(E)-2-(4-fluorophenyl)vinyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide | 240 mg | FC1=CC=C(C=C1)/C=C/C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C22H18FN3O4S2
